US04367234
p-Nitroanisole (25 g., 0.163 mole) was dissolved in 400 ml. of methylene chloride and cooled to 10° C. Titanium tetrachloride (61.8 g., 36 ml., 0.326 mole) was added, followed by 1,1-dichloromethyl methyl ether added over 2 minutes. The mixture was warmed to room temperature and stirred for 42 hours. The reaction mixture was diluted with 1 liter of ice and water and extracted with three 500 ml. portions of methylene chloride. The organic extracts were combined, washed with two portions of water and one of brine, dried over anhydrous magnesium sulfate, filtered and concentrated to an oil (20 g.). The oil was chromatographed on 600 g. silica gel, using 2:1 methylene chloride: hexane as eluant, collecting 15 ml. fractions, and monitoring by tlc. Clean product fractions 79-185 were combined and evaporated to yield 2-methoxy-5-nitrobenzaldehyde (3.8 g.; m.p. 87-89, literature m.p. 89°-90°).

reactant | p-Nitroanisole | 0.163 mole, 25 g | [N+](=O)([O-])C1=CC=C(C=C1)OC | C7H7NO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 1,1-dichloromethyl methyl ether | COC(Cl)Cl | C2H4Cl2O
solvent | water | O | H2O
catalyst | Titanium tetrachloride | 0.326 mole, 36 ml, 61.8 g | [Ti](Cl)(Cl)(Cl)Cl
product | 2-methoxy-5-nitrobenzaldehyde | 3.8 g | COC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
